US06995162B2
1-methyl-4-(3-nitro-6-pentafluoroethyl-phenoxymethyl)-piperidine
4-(3-Nitro-6-pentafluoroethyl-phenoxymethyl)-piperidine (316.5 mg) was dissolved in 2.7 mL acetonitrile, then added 37% formaldehyde/H2O (360 ul) and then NaBH3CN (90 mg). Upon addition of NaCNBH3 the reaction exothermed slightly. The reaction was stirred at RT and pH was maintained at ˜7 by addition of drops of glacial acetic acid. After about 1 h, the mixture was concentrated in vacuo, treated with 8 mL 2N KOH and extracted two times with 10 mL Et2O. The organic layers were washed with 0.5N KOH and then the combined organic layers were extracted two times with 1N HCl. The aqueous layer was basified with solid KOH and extracted two times with Et2O. This organic layer was then washed with brine/1N NaOH, dried over Na2SO4, filtered, concentrated in vacuo and dried under high vacuum to give pure compound.

reactant | 4-(3-Nitro-6-pentafluoroethyl-phenoxymethyl)-piperidine | 316.5 mg | [N+](=O)([O-])C=1C=C(OCC2CCNCC2)C(=CC1)C(C(F)(F)F)(F)F | C14H15F5N2O3
reactant | formaldehyde H2O | 360 ul | C=O.O
reactant | NaBH3CN | 90 mg | [BH3-]C#N.[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 2.7 mL | C(C)#N | C2H3N
product | 1-methyl-4-(3-nitro-6-pentafluoroethyl-phenoxymethyl)-piperidine | CN1CCC(CC1)COC1=CC(=CC=C1C(C(F)(F)F)(F)F)[N+](=O)[O-] | C15H17F5N2O3
